US07183306B2
5-[4-(Benzyloxy)phenyl]-3-isopropoxy-1-(4-methoxy-phenyl)-1H-pyrazole
A mixture of 5-[4-(benzyloxy)phenyl]-3-hydroxy-1-(4-methoxyphenyl)-1H-pyrazol (2.4 g), 2-iodopropane (5.4 8 g), and potassium carbonate (2.67 g) in N,N-dimethyl-formamide (10 ml) was stirred at 100° C. for 3 hrs.

reactant | 5-[4-(benzyloxy)phenyl]-3-hydroxy-1-(4-methoxyphenyl)-1H-pyrazol | 2.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)O | C23H20N2O3
reactant | 2-iodopropane | 8 g | IC(C)C | C3H7I
reactant | potassium carbonate | 2.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-[4-(Benzyloxy)phenyl]-3-isopropoxy-1-(4-methoxy-phenyl)-1H-pyrazole | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)OC(C)C | C26H26N2O3
